Circuito L2 Nat Forced

.options savecurrents

R1 1 2 1.03504497262k
R2 3 2 2.01159104669k
R3 2 5 3.03557466091k
R4 5 0 4.10235086526k
R5 5 6 3.09889833746k
R6 0 7 2.00952426524k
R7 ne 8 1.04158528578k

Vaux 7 ne 0.0

Hd 5 8 Vaux 8.09359354837k

Gb 6 3 (2,5) 7.31724970280m

Vs 1 0 0.0 ac 1.0 sin(0 1 1000 0 0)

C 6 8 1.04791133328u ic=8.80125502249

.ic v(6)=8.80125502249 v(8)=0
.model linearcircuit NPN
.control

set hcopypscolor=0
set color0=white
set color1=black
set color2=red
set color3=blue
set color4=violet
set color5=rgb:3/8/0
set color6=rgb:4/0/0

run
tran 1u 20m 0 uic

hardcopy spicenatforced.ps v(6) v(1) v(6)-v(8)

ac dec 10 0.1 1MEG

hardcopy ampfreqresponse.ps db(v(6)) db(v(1)) db(v(6)-v(8))

hardcopy phasefreqresponse.ps 180/PI*phase(v(6)) 180/PI*phase(v(1)) 180/PI*phase(v(6)-v(8))

quit
.endc

.end